US05502053
To a solution of 12.00 g (65.93 mmol) of <(E)-methyl-4-cyclohexyl-2-butenoate dissolved in 400 mL of diethyl ether cooled to -78° C. was added 215 mL (215 mmol) of DIBAL-H (1.0M in THF). After 0.5 hr the reaction was warmed to 0° C. for 0.5 hr and quenched with 300 mL of aqueous saturated solution of NaK tartrate, this stirred for 14 hr. The aqueous layer was extracted with ether (2×100 mL) and the combined organic layers were washed with water (1×100 mL), brine (1×100 mL), dried over MgSO4 and concentrated to provide (E)-4-cyclohexyl-2-buten-1-ol as colorless oil.

reactant | (E)-methyl-4-cyclohexyl-2-butenoate | COC(\C=C\CC1CCCCC1)=O | C11H18O2
reactant | DIBAL-H | 215 mmol, 1.0M, 215 mL | CC(C)C[AlH]CC(C)C
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
product | (E)-4-cyclohexyl-2-buten-1-ol | C1(CCCCC1)C/C=C/CO | C10H18O
